US04643995
106.3 g (0.88 mol) of chloroethylformate are added dropwise with stirring over a period of 30 minutes to a solution of 100 g (0.48 mol) of 1-methyl-4-ethoxycarbonyl-mercapto-piperidine in 80 ml of toluene which has been heated to 90° C. The solution is then heated for two hours to from 100° to 110° C. After repeated addition of 40 g of chloroethylformate the solution is heated for a further three hours. After leaving it to stand overnight at room temperature it is drawn off by suction using a glass fibre filter. The solution is concentrated on a rotary evaporator and the residue is distilled off. 20 g (94% of the theoretical yield) of 1-ethoxycarbonyl-4-ethoxycarbonyl-mercapto-piperidine are obtained. B.P. 138°-140° C.

reactant | chloroethylformate | 0.88 mol, 106.3 g | ClCCOC=O | C3H5ClO2
reactant | 1-methyl-4-ethoxycarbonyl-mercapto-piperidine | 0.48 mol, 100 g | CN1C(CC(CC1)C(=O)OCC)S | C9H17NO2S
reactant | chloroethylformate | 40 g | ClCCOC=O | C3H5ClO2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-ethoxycarbonyl-4-ethoxycarbonyl-mercapto-piperidine | C(C)OC(=O)N1C(CC(CC1)C(=O)OCC)S | C11H19NO4S
